US07030265B2
Preparation of (2E,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexenyl)-2,4,6,8-nonatetraenyl (9Z,11E)-9,11-octadecadienoate
1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride [EDCI] (0.71 g, 3.67 mmol) and anhydrous methylene chloride 15 ml were added to nitrogen filled, three mouth- round bottom flask and melted. The reaction mixture was cooled down into 0° C. Conjugated linoleic acid was added, and stirred for approximately 30 minutes. Retinol (0.87 g, 3.05 mmol) and N,N′-dimethylaminopyridine (DMAP) solubilized in anhydrous methylene chloride 7 ml were added into the reaction mixture, and stirred for 4 hours at room temperature. Organic phase were washed with water (20 ml×2) and brine (20 ml×2) and dried with anhydrous MgSO4, concentrated under low pressure and separated with column chromatography (solvent:ethylacetate/hexane=1/8).

reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 3.67 mmol, 0.71 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Retinol | 3.05 mmol, 0.87 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/CO)/C)/C | C20H30O
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (2E,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexenyl)-2,4,6,8-nonatetraenyl (9Z,11E)-9,11-octadecadienoate | C(CCCCCCC\C=C/C=C/CCCCCC)(=O)OC\C=C(\C=C\C=C(\C=C\C1=C(CCCC1(C)C)C)/C)/C | C38H60O2
